US07547691B2
A mixture of 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-6-carboxylic acid methylamide (263 mg, 0.830 mmol), 4-(3-aminopropyl)-piperazine-1-carboxylic acid tert-butyl ester (358 mg, 1.47 mmol) and diisopropylethylamine (0.44 mL) in 1,4-dioxane (10 mL) is heated at 95° C. for 20 hours. The solvent is removed after cooling and the residue is subjected to chromatography on silica gel, eluting with 2.0 M NH3/MeOH in dichloromethane 0-10%, to give 4-{3-[5-methyl-4-(6-methylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester (191 mg, 44% yield). The intermediate is dissolved in THF (8 mL) and 5 N hydrochloric acid (5 mL) is added. The solution is heated at 70° C. for 4.5 hours and then cooled before evaporating the solvent. Methanol is added to the residue and the mixture is sonicated for 30 minutes. The solid is filtered and washed with diethyl ether, then dried in a vacuum oven at 50° C. for 18 hours to give the title compound (129 mg, 66% yield). ES+(m/z) 425 [M(free base)+H].

reactant | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-6-carboxylic acid methylamide | 0.830 mmol, 263 mg | CNC(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)Cl)C1 | C15H12ClN3OS
reactant | 4-(3-aminopropyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.47 mmol, 358 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCN | C12H25N3O2
reactant | diisopropylethylamine | 0.44 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-{3-[5-methyl-4-(6-methylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | 191 mg, 44% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=C(C=C2)C(NC)=O)C | C27H36N6O3S
